US08912331B2
Step 3: Quinoline-6-carboxamide
To a solution of methyl quinoline-6-carboxylate (148 g, 0.79 mol) in methanol (600 ml.), aqueous ammonia (800 ml) was added and then stirred at 45° C. for 12 h. The reaction mixture was concentrated to afford the title compound as a dark red solid (120 g, 88%).

reactant | methyl quinoline-6-carboxylate | 0.79 mol, 148 g | N1=CC=CC2=CC(=CC=C12)C(=O)OC | C11H9NO2
reactant | ammonia | 800 ml | N | H3N
solvent | methanol | 600 ml | CO | CH4O
product | Quinoline-6-carboxamide | 120 g, 88% | N1=CC=CC2=CC(=CC=C12)C(=O)N | C10H8N2O
